US04067989
To α-bromo-p-chloroacetophenone (4.64 g) in acetonitrile (50 ml) was added 1,2,4-triazole (1.4 g) followed by triethylamine (2 g). The mixture was stirred at room temperature for two hours and refluxed for one hour. The solvent was removed under reduced pressure and to the residue water was added. The yellow solid which precipitated was filtered, washed with water and dried. Crystallisation from ethanol-petroleum ether (60°-80°) gave α-1,2,4-triazol-1-yl-p-chloroacetophenone as cream coloured plates, m.p. 148°-150°.

reactant | α-bromo-p-chloroacetophenone | 4.64 g | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | 1,2,4-triazole | 1.4 g | N1N=CN=C1 | C2H3N3
reactant | triethylamine | 2 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | α-1,2,4-triazol-1-yl-p-chloroacetophenone | N1(N=CN=C1)CC(=O)C1=CC=C(C=C1)Cl | C10H8ClN3O
